US05576343
Ethyl 2-Ethoxycarbonyl-2-[4-[(2-imidazolin-2-yl)methoxy]phenyl]acetate
With ice cooling and stirring, 40 ml of ethanol solution containing 3.6 g of ethyl 2-ethoxycarbonyl-2-[4-(2-ethoxy-2-iminoethoxy]phenyl]acetate obtained in the above step b) was added dropwise to a 10 ml ethanol solution containing 0.6 g of ethylenediamine, and the resulting mixture was stirred at room temperature for 1.5 hours, followed by refluxing under heating for 0.5 hours. After cooling, the resulting reaction solution was adjusted to an acidic pH with ethanol containing 13% (w/v) of hydrochloric acid, and then concentrated to dryness. The residue thus obtained was dissolved in water and washed with diethyl ether. Thereafter, the resulting water layer was adjusted to pH 9-10 with dilute sodium hydroxide aqueous solution, and crystals thus precipitated were collected by filtration. In this way, 1.83 g of the title compound was obtained in the form of colorless crystals.

reactant | ethanol | 40 ml | C(C)O | C2H6O
reactant | ethyl 2-ethoxycarbonyl-2-[4-(2-ethoxy-2-iminoethoxy]phenyl]acetate | 3.6 g | C(C)OC(=O)C(C(=O)OCC)C1=CC=C(C=C1)OCC(=N)OCC | C17H23NO6
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | ethylenediamine | 0.6 g | C(CN)N | C2H8N2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | Ethyl 2-Ethoxycarbonyl-2-[4-[(2-imidazolin-2-yl)methoxy]phenyl]acetate | 1.83 g | C(C)OC(=O)C(C(=O)OCC)C1=CC=C(C=C1)OCC=1NCCN1 | C17H22N2O5
